US05576313
Step 3: Preparation of N-t-butoxycarbonyl-4-(2-methylbenzyl) isonipecotic acid benzyl ester
To a cold (-78° C.) solution of N-t-butoxycarbonyl isonipecotic acid benzyl ester (13.34 g, 41.8 mmol) in 140 ml of dry THF was added a 1.0 M THF solution of sodium bis trimethysilylamide (59 ml, 59 mmol) over 15 min. The resulting orange solution was stirred at -78° C. for 1 h and then treated dropwise with α-bromo-o-xylene (6.8 ml, 50.7 mmol) and then allowed to warm slowly to room temp. overnight. The reaction was quenched with saturated aqueous NH4Cl, diluted with H2O, and extracted with EtOAc (2×). The combined organic extracts were washed with brine (2×), and concentrated in vacuo to an orange gum. Flash chromatography on silica with 20% to 30% EtOAc/hexane as eluent, combining appropriate fractions, and concentrating in vacuo, afforded the product as a white solid.

reactant | N-t-butoxycarbonyl isonipecotic acid benzyl ester | 41.8 mmol, 13.34 g | C(C1=CC=CC=C1)OC(C1CCN(CC1)C(=O)OC(C)(C)C)=O | C18H25NO4
reactant | sodium bis trimethysilylamide | 59 mmol, 59 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | α-bromo-o-xylene | 50.7 mmol, 6.8 ml | BrCC=1C(=CC=CC1)C | C8H9Br
solvent | THF | 140 ml | C1CCOC1 | C4H8O
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
product | N-t-butoxycarbonyl-4-(2-methylbenzyl) isonipecotic acid benzyl ester | C(C1=CC=CC=C1)OC(C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=C(C=CC=C1)C)=O | C26H33NO4
